US05246948
To a solution of 1.62 g (10 mmol) of benzoylene urea and 1.88 g (10 mmol) of 4-(3-chloropropylthio)pyridine in 50 ml of dimethylformamide, 1.65 ml (11 mmol) of 1,8-diazabicyclo[5.4.0]-7-undecene was added, and the mixture was stirred at 80° C. for 16 hours. After cooling, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried and the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate/ethanol =25:1 to 10:1 to 2:1). First, 0.973 g of 3-[3-(4-pyridylthio)propyl]quinazoline-2,4-(1H,3H)-dione (31.1% yield, pale yellow crystals) was obtained, and then, 0.487 g of the desired product was obtained (10.4% yield, yellow oil).

reactant | benzoylene urea | 10 mmol, 1.62 g | C1=CC=C2C(=C1)C(=O)NC(=O)N2 | C8H6N2O2
reactant | 4-(3-chloropropylthio)pyridine | 10 mmol, 1.88 g | ClCCCSC1=CC=NC=C1 | C8H10ClNS
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 11 mmol, 1.65 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-[3-(4-pyridylthio)propyl]quinazoline-2,4-(1H,3H)-dione | 0.973 g, 31.1% yield | N1=CC=C(C=C1)SCCCN1C(NC2=CC=CC=C2C1=O)=O | C16H15N3O2S
